US07456164B2
N-[(4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]pyridin-2-amine
The title compound (25 mg, 31%) was prepared from 1-(4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methanamine and 2-bromopyridine similarly to the procedure used for example 152. 1H NMR (400 MHz, CDCl3) δ 1.68-1.72 (m, 2H), 1.84-1.94 (m, 6H), 2.00-2.16 (m, 8H), 2.63-2.67 (m, 2H), 2.74 (m, 1H), 3.49 (d, 2H), 3.56-3.62 (m, 2H), 3.80-3.85 (m, 2H), 4.02 (m, 1H), 4.31 (m, 1H), 6.22 (d, 1H), 6.51 (t, 1H), 6.91 (d, 2H), 7.24 (d, 2H), 7.32 (t, 1H), 8.01 (d, 1H). HRMS ESI+ m/z 422.2792 [MH]+.

reactant | 1-(4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methanamine | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)CN | C21H32N2O2
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
product | N-[(4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]pyridin-2-amine | 25 mg, 31% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)CNC1=NC=CC=C1 | C26H35N3O2
